US09284271B2
2-(6-chloro-5-methyl-1H-indol-3-yl)ethanamine was prepared according to method D Step V with 3-(2-azidoethyl)-6-chloro-5-methyl-2-(triethylsilyl)-1H-indole (0.654 g; 1.87 mmol) and triphenylphosphine (0.737 g; 2.81 mmol) in methanol (10 mL) and tetrabutylamonium fluoride (5.62 mL 1M) in THF (stirred for 36 hours).

reactant | 3-(2-azidoethyl)-6-chloro-5-methyl-2-(triethylsilyl)-1H-indole | 1.87 mmol, 0.654 g | N(=[N+]=[N-])CCC1=C(NC2=CC(=C(C=C12)C)Cl)[Si](CC)(CC)CC | C17H25ClN4Si
reactant | triphenylphosphine | 2.81 mmol, 0.737 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrabutylamonium fluoride | 1M, 5.62 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 2-(6-chloro-5-methyl-1H-indol-3-yl)ethanamine | ClC1=C(C=C2C(=CNC2=C1)CCN)C | C11H13ClN2
